* CL21A106KOQNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-09-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 10uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 16Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.15mm
*     Width = 1.25+/-0.15mm
*     Thickness = 1.25+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 3.6V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A106KOQNNN_Precise_DC3.6V_25degC 1 2
C1 1 3 5.89177E-6
C2 3 4 1.52853E-4
C3 4 5 2.34631E-4
C4 5 6 2.43272E-4
C5 6 7 2.49854E-4
C6 7 8 2.35074E-4
C7 8 9 1.24033E-4
C8 9 10 1.0E-10
C16 17 18 1.14624E-4
C17 18 19 3.54921E-4
C18 19 20 3.82756E-4
C19 20 21 5.27908E-5
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 1.84857E-5
C24 25 26 2.22496E-6
C25 26 27 2.53303E-4
C26 27 28 4.93129E-11
C27 28 2 5.07518E-12
L10 11 12 8.47096E-11
L11 12 13 2.82110E-10
L12 13 14 4.68761E-11
L13 14 15 1.0E-10
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 9.79104E-10
L17 18 19 6.37712E-11
L18 19 20 3.20017E-11
L19 20 21 7.03874E-11
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 5.56242E-11
L24 25 26 1.87559E-10
L25 26 27 1.0E-10
L26 27 28 2.83487E-11
L27 28 2 5.80495E-11
R1 1 3 1.0E8
R2 3 4 39.11230
R3 4 5 3.54807
R4 5 6 0.67673
R5 6 7 0.12886
R6 7 8 0.02382
R7 8 9 0.00664
R8 9 10 1.0E-6
R9 10 11 0.00138
R11 12 13 0.03016
R12 13 14 0.08996
R13 14 15 1.0E-6
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00128
R17 18 19 0.00137
R18 19 20 0.00359
R19 20 21 5.06496E-4
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00480
R24 25 26 0.00764
R25 26 27 1.0E-6
R26 27 28 1.43418
R27 28 2 2.60072
.ENDS CL21A106KOQNNN_Precise_DC3.6V_25degC